US07514451B2
Using 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (199 mg) and (3R,4S)-3-cyclopropylaminomethyl-4-fluoropyrrolidine (131 mg), the same procedure was followed as in Example 23 to give 1-cyclopropyl-7-[(3S,4S)-3-cyclopropylaminomethyl-4-fluoro-1-pyrrolidinyl]-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid as pale yellow crystals (148 mg).

reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 199 mg | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
reactant | (3R,4S)-3-cyclopropylaminomethyl-4-fluoropyrrolidine | 131 mg | C1(CC1)NC[C@H]1CNC[C@H]1F | C8H15FN2
product | 1-cyclopropyl-7-[(3S,4S)-3-cyclopropylaminomethyl-4-fluoro-1-pyrrolidinyl]-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 148 mg | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1C[C@@H]([C@@H](C1)F)CNC1CC1)F)=O)C(=O)O | C21H23F2N3O3
